US08168794B2
Synthesis of (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)piperidine-1-carboxylate
Followed method to synthesis of (3S,5S)-benzyl 3-(benzoyloxy)-5-(tert-butoxycarbonylamino)-piperidine-1-carboxylate starting from (3R,5R)-benzyl 3-(tert-butyldimethylsilyloxy)-5-hydroxypiperidine-1-carboxylate. LC/MS (m/z): 365.2 (MH+-Boc), Rt: 1.37.

reactant | (3S,5S)-benzyl 3-(benzoyloxy)-5-(tert-butoxycarbonylamino)-piperidine-1-carboxylate | C(C1=CC=CC=C1)(=O)O[C@@H]1CN(C[C@H](C1)NC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C25H30N2O6
reactant | (3R,5R)-benzyl 3-(tert-butyldimethylsilyloxy)-5-hydroxypiperidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1 | C19H31NO4Si
product | (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-(tert-butyldimethylsilyloxy)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=CC=C1 | C24H40N2O5Si
